### PR TITLE
feat(Algebra/IndZariski): local isomorphisms are finitely presented

### PR DESCRIPTION
**Pull request by chrisflav**
## Summary

Adds two small lemmas to `Proetale/Algebra/IndZariski.lean`:

- `Algebra.IsLocalIso.finitePresentation`: a local isomorphism of
  `R`-algebras is finitely presented as a ring homomorphism. The proof
  applies `RingHom.finitePresentation_ofLocalizationSpanTarget` to the
  standard-open-immersion span supplied by
  `Algebra.IsLocalIso.span_isStandardOpenImmersion_eq_top`, and uses
  `IsLocalization.Away.finitePresentation` on each piece.

- `CommAlgCat.isLocalIso_le_isFinitelyPresentable`: the object property
  `CommAlgCat.isLocalIso R` is contained in
  `ObjectProperty.isFinitelyPresentable.{u} (CommAlgCat.{u} R)`.
  Transported across the equivalence `commAlgCatEquivUnder` from
  `CommRingCat.isFinitelyPresentable_under`.

Both are prerequisites for further ind-Zariski development on the
`archon` branch (notably for chaining ind-Zariski against local
isomorphisms via `MorphismProperty.PreIndSpreads`).

### CODE REVIEW

File: Proetale/Algebra/IndZariski.lean [hunk 1]
```diff
@@ -53,6 +55,34 @@ instance : (CommAlgCat.isLocalIso R).IsClosedUnderFiniteProducts :=
     have inst (i : ι) : Algebra.IsLocalIso R (S i) := hF ⟨i⟩
     exact Algebra.IsLocalIso.pi_of_finite R (fun i ↦ S i)
 
+/-- A local isomorphism of `R`-algebras is finitely presented. -/
+lemma Algebra.IsLocalIso.finitePresentation [Algebra.IsLocalIso R S] :
+    (algebraMap R S).FinitePresentation := by
```
Comment (chrisflav) [inline Proetale/Algebra/IndZariski.lean]: This should be proven differently: First prove that `Algebra.Etale` is local, for this show the analogue of `Algebra.FinitePresentation.of_span_eq_top_target` for `Algebra.Etale`. Then use this to show that `Algebra.IsLocalIso` implies `Algebra.Etale`. Finally this will directly imply that `Algebra.IsLocalIso` implies `Algebra.FinitePresentation`.

File: Proetale/Algebra/IndZariski.lean [hunk 2]
```diff
@@ -53,6 +55,34 @@ instance : (CommAlgCat.isLocalIso R).IsClosedUnderFiniteProducts :=
...
+      (IsScalarTower.algebraMap_eq R S (Localization.Away g)).symm,
+    RingHom.finitePresentation_algebraMap]
+  obtain ⟨r, hr⟩ := hg.exists_away
+  exact IsLocalization.Away.finitePresentation r
+
+/-- Local isomorphisms are finitely presentable in `CommAlgCat R`. -/
+lemma CommAlgCat.isLocalIso_le_isFinitelyPresentable :
+    CommAlgCat.isLocalIso R ≤
+      ObjectProperty.isFinitelyPresentable.{u} (CommAlgCat.{u} R) := by
+  intro S hS
```
Comment (chrisflav) [inline Proetale/Algebra/IndZariski.lean]: We should already have the fact that finitely presented algebras are `isFinitelyPresentable` (and if not add this as a separate lemma). Then deduce it from these two facts.

**Comment by chrisflav** [comment]
orchestra address review

File: Proetale/Algebra/IndZariski.lean [hunk 3]
```diff
@@ -53,6 +60,49 @@ instance : (CommAlgCat.isLocalIso R).IsClosedUnderFiniteProducts :=
...
+/-- Local isomorphisms of `R`-algebras are étale. -/
+lemma Algebra.IsLocalIso.etale [Algebra.IsLocalIso R S] : Algebra.Etale R S :=
+  Algebra.Etale.of_span_eq_top_target R S _
+    (Algebra.IsLocalIso.span_isStandardOpenImmersion_eq_top R S) fun g hg ↦ by
+      obtain ⟨r, _⟩ := hg.exists_away
+      exact Algebra.Etale.of_isLocalizationAway r
+
+/-- A local isomorphism of `R`-algebras is finitely presented. -/
+lemma Algebra.IsLocalIso.finitePresentation [Algebra.IsLocalIso R S] :
+    (algebraMap R S).FinitePresentation := by
```
Comment (chrisflav) [inline Proetale/Algebra/IndZariski.lean]: The conclusion should be `Algebra.FinitePresentation R S`.

**Comment by chrisflav** [comment]
orchestra address review
